US08871790B2
Compound 130.3. Methyl 2-(tetrahydrofuran-3-yl)acetate
A mixture of 2-(tetrahydrofuran-3-yl)acetic acid (2.00 g, 15.4 mmol, 1.00 equiv) and sulfuric acid (2 mL) in methanol (20 mL) was stiffed for 3 h at 80° C. in an oil bath. After cooling to ambient temperature, the mixture was diluted with 50 mL of ether and washed with 2×20 mL of water, 2×20 mL of sodium bicarbonate (aq., sat. Note: gas evolution), and 2×20 mL of brine. The organic phase was then dried over anhydrous sodium sulfate and concentrated in vacuo to yield 1.50 g (68%) of the title compound as a yellow oil.

reactant | 2-(tetrahydrofuran-3-yl)acetic acid | 15.4 mmol, 2.00 g, 1.00 equiv | O1CC(CC1)CC(=O)O | C6H10O3
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 20 mL | CO | CH4O
solvent | ether | 50 mL | CCOCC | C4H10O
product | Methyl 2-(tetrahydrofuran-3-yl)acetate | 1.50 g, 68% | O1CC(CC1)CC(=O)OC | C7H12O3
